US07608639B2
3-(4-{3-[4-Ethyl-2-(1-methyl-1-phenyl-ethyl)-phenoxy]-5-fluoro-phenoxy}-2-methyl-phenyl)-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-ethyl-2-(1-methyl-1-phenyl-ethyl)-phenol as in Example 18 to afford 0.027 g (10%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C33H33O4F 512, found 513 (M+1, 100%).

reactant | 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)Br)C)=O | C17H16BrFO3
reactant | 4-ethyl-2-(1-methyl-1-phenyl-ethyl)-phenol | C(C)C1=CC(=C(C=C1)O)C(C)(C1=CC=CC=C1)C | C17H20O
product | 3-(4-{3-[4-Ethyl-2-(1-methyl-1-phenyl-ethyl)-phenoxy]-5-fluoro-phenoxy}-2-methyl-phenyl)-propionic acid | C(C)C1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)F)C=C1)C(C)(C1=CC=CC=C1)C | C33H33FO4
